US09334269B2
To an ice-cold solution of 4-bromo-benzaldehyde (10 g, 0.05 mol) and 2,2-dimethoxy-ethylamine (6.8 g, 0.06 mol) in MeOH (200 mL) was added AcOH (2 mL), and the reaction mixture was stirred at RT for 1 h. The reaction mixture was cooled to 0° C. and NaBH4 (6.2 g, 0.15 mol) was added portionwise. The reaction mixture was stirred at RT for 10 h. After completion, The resulting reaction mixture was concentrated under reduced pressure and 10% aqueous NaOH was added. The mixture was extracted with EtOAc, the organic layer separated, dried over Na2SO4, and concentrated under reduced pressure. Purification was done by column chromatography using 100-200 mesh silica gel eluting with 5-15% EtOAc in hexanes to afford N-(4-bromobenzyl)-2,2-dimethoxyethanamine (10 g, 67%) as a pale yellow liquid.

reactant | 4-bromo-benzaldehyde | 0.05 mol, 10 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
reactant | 2,2-dimethoxy-ethylamine | 0.06 mol, 6.8 g | COC(CN)OC | C4H11NO2
reactant | AcOH | 2 mL | CC(=O)O | C2H4O2
reactant | NaBH4 | 0.15 mol, 6.2 g | [BH4-].[Na+]
solvent | MeOH | 200 mL | CO | CH4O
product | N-(4-bromobenzyl)-2,2-dimethoxyethanamine | 10 g, 67% | BrC1=CC=C(CNCC(OC)OC)C=C1 | C11H16BrNO2
